US05990108
A mixture of 0.4 g of ethyl 9-(4-phenyl-1H-imidazol-2-ylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate and 12.5 ml of acetic acid and 2.5 ml of 6 N hydrochloric acid is heated for 24 hours at a temperature close to 100° C. The reaction medium is filtered while hot on sintered glass and the solid residue obtained is washed with three times water and then dried under reduced pressure at 60° C. 0.23 g of 9-(4-phenyl-1H-imidazol-2-ylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid is thus obtained in the form of a white solid melting at a temperature greater than 260° C. (Analysis: C24H17N5O3, 3.96 H2O, 0.91 C2H4O2 : % calculated C: 68.07, H: 4.05, N: 16.54, % found C: 68.1, H: 4.1, N:16.5).

reactant | ethyl 9-(4-phenyl-1H-imidazol-2-ylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate | 0.4 g | C1(=CC=CC=C1)C=1N=C(NC1)CC=1C=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C=CC1 | C26H21N5O3
reactant | hydrochloric acid | 6 N, 2.5 ml | Cl | ClH
solvent | acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
product | 9-(4-phenyl-1H-imidazol-2-ylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid | 0.23 g | C1(=CC=CC=C1)C=1N=C(NC1)CC=1C=2CC3=C(NC(C=4N3C=C(N4)C(=O)O)=O)C2C=CC1 | C24H17N5O3
